US08049006B2
(Step 1) To the methyl (2S)-3-amino-2-(5-chloro-2-methoxybenzyl)propanoate tosylate (97.9 g), synthesized from the compound S1 as an starting material in accordance with Japanese Patent Publication (A) No. 2004-300036, in tetrahydrofuran (100 ml)/1M sodium hydroxide (100 ml) solution, di-tert-butyl dicarbonate (24 g) was added under ice cooling and the mixture was stirred at room temperature for 1 hour. Ethyl acetate was added to the reaction solution, and the aqueous layer and the organic layer were separated. The organic layer was washed with saturated saline, dried over with anhydrous sodium sulfate, and concentrated to obtain methyl(2R)-3-[(tert-butoxycarbonyl)amino]-2-(5-chloro-2-methoxybenzyl)propanoate as a crude product (42.9 g).

reactant | methyl (2S)-3-amino-2-(5-chloro-2-methoxybenzyl)propanoate tosylate | 97.9 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.NC[C@@H](C(=O)OC)CC1=C(C=CC(=C1)Cl)OC
reactant | sodium hydroxide | 1M, 100 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl(2R)-3-[(tert-butoxycarbonyl)amino]-2-(5-chloro-2-methoxybenzyl)propanoate | C(C)(C)(C)OC(=O)NC[C@H](C(=O)OC)CC1=C(C=CC(=C1)Cl)OC | C17H24ClNO5
